US06617339B1
3-(4-(Piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one Dihydrochloride
3-(4-(4-t-Butoxycarbonyl-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one (10.24 g, 22 mmol) was suspended in ethanol (150 ml), and a solution of hydrogen chloride in ethanol (5M, 75 ml) added at 0°. A complete solution occurred, and the solution was left to stir 18 hours at ambient temperature, as product precipitated. After dilution with anhydrous diethyl ether (200 ml), the product (8.91 g) was filtered off.

reactant | 3-(4-(4-t-Butoxycarbonyl-piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one | 22 mmol, 10.24 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | C22H27FN4O6
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 150 ml | C(C)O | C2H6O
solvent | ethanol | 5M, 75 ml | C(C)O | C2H6O
product | 3-(4-(Piperazin-1-yl)-3-fluorophenyl)-5(R)-(isoxazol-3-yloxymethyl)-oxazolidin-2-one Dihydrochloride | Cl.Cl.N1(CCNCC1)C1=C(C=C(C=C1)N1C(O[C@H](C1)COC1=NOC=C1)=O)F | InChI=1S/C17H19FN4O4.2ClH/c18-14-9-12(1-2-15(14)21-6-4-19-5-7-21)22-10-13(26-17(22)23)11-24-16-3-8-25-20-16;;/h1-3,8-9,13,19H,4-7,10-11H2;2*1H/t13-;;/m1../s1
